US06797723B1
Preparation of 2-(3-{3-[2-Ethyl-5-hydroxy-4-(tetrahydrofuran-3-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid sodium salt hemihydrate.
A mixture of 2-{3-[3-(5-benzyloxy-4-bromo-2-ethylphenoxy)propoxy]-2-propylphenoxy}-benzoic acid methyl ester (3.00 g, 4.73 mmol), furan-3-boronic acid (1.06 g, 9.47 mmol), tetrakis(triphenylphosphine)palladium(0) (0.54 g, 0.47 mmol), and 2 M aqueous sodium carbonate solution (20 mL) in tetrahydrofuran (40 mL) was heated at 100° C. for 48 h. The mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was separated, washed once with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 10% ethyl acetate/90% hexane) of the residue provided 1.9 g (65%) of the title compound as a yellow oil. 1H NMR (CDCl3) δ 7.88 (dd, J=8, 2 Hz, 1H), 7.87 (s, 1H), 7.40 (m, 7H), 7.26 (s 1H), 7.05 (m, 2H), 6.80 (d, J=9 Hz, 1H), 6.76 (d, J=2 Hz, 1H), 6.67 (d, J=9 Hz, 1H), 6.60 (s, 1H), 6.43 (d, J=9 Hz, 1H), 5.11 (s, 2H), 4.18 (m, 4H), 3.83 (s, 3H), 2.66 (t, J=8 Hz, 2H), 2.62 (q, J=7 Hz, 2H), 2.30 (quintet, J=6 Hz, 2H), 1.57 (hextet, J=8 Hz, 2H), 1.20 (t, J=7 Hz, 3H), 0.92 (t, J=7 Hz, 3H); MS ES+ m/z=621 (p+1); IR (CHCl3, cm−1) 3000, 1727, 1603, 1461.

reactant | 2-{3-[3-(5-benzyloxy-4-bromo-2-ethylphenoxy)propoxy]-2-propylphenoxy}-benzoic acid methyl ester | 4.73 mmol, 3.00 g | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)CC)CCC)=O | C35H37BrO6
reactant | furan-3-boronic acid | 9.47 mmol, 1.06 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 2 M, 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.47 mmol, 0.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-{3-[2-Ethyl-5-hydroxy-4-(tetrahydrofuran-3-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid sodium salt hemihydrate | 1.9 g, 65% | O.[Na+].C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)[O-])C=CC=C3)C=CC2)CCC)C=C(C(=C1)C1COCC1)O.C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)[O-])C=CC=C3)C=CC2)CCC)C=C(C(=C1)C1COCC1)O.[Na+] | InChI=1S/2C31H36O7.2Na.H2O/c2*1-3-9-23-27(12-7-13-28(23)38-29-11-6-5-10-24(29)31(33)34)36-15-8-16-37-30-19-26(32)25(18-21(30)4-2)22-14-17-35-20-22;;;/h2*5-7,10-13,18-19,22,32H,3-4,8-9,14-17,20H2,1-2H3,(H,33,34);;;1H2/q;;2*+1;/p-2
